US07208518B2
To a solution of phosphorous oxychloride (1.35 g, 8.8 mmole) and dry pyridine (12 mL) cooled to 0° C., a solution of 3,5-diisopropyl salicylamide (1.10 g, 5 mmole) and dry pyridine (5 mL) was slowly added drop by drop. The reaction mixture was stirred at room temperature, whereat the colour changed from colourless over violet to red. After extraction with ethyl acetate and washing with a saturated sodium chloride solution and 2N hydrochloric acid, the organic layer was dried and evaporated under reduced pressure. The obtained solid residue was recrystallized from acetonitrile, whereat there were obtained 610 mg (60%) of 2-hydroxy-3,5-diisopropyl benzonitrile.

reactant | phosphorous oxychloride | 8.8 mmole, 1.35 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3,5-diisopropyl salicylamide | 5 mmole, 1.10 g | C(C)(C)C1=C(C(C(=O)N)=CC(=C1)C(C)C)O | C13H19NO2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 12 mL | N1=CC=CC=C1 | C5H5N
product | 2-hydroxy-3,5-diisopropyl benzonitrile | 610 mg, 60% | OC1=C(C#N)C=C(C=C1C(C)C)C(C)C | C13H17NO
